US04034075
6-Methoxy-4(4-methylpiperazinyl)-N(1H-tetrazol-5-yl) quinaldamide, hydrochloride
4-Piperazino-N(1H-tetrazol-5-yl)quinaldamide hydrochloride, m.p. 320° (d), was prepared in a similar way from piperazine and 4-chloro-N(1H-tetrazol-5-yl)quinaldamide.

reactant | 4-Piperazino-N(1H-tetrazol-5-yl)quinaldamide hydrochloride | Cl.N1(CCNCC1)C1=CC(C(=O)NC2=NN=NN2)=NC2=CC=CC=C12
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | 4-chloro-N(1H-tetrazol-5-yl)quinaldamide | ClC1=CC(C(=O)NC2=NN=NN2)=NC2=CC=CC=C12 | C11H7ClN6O
product | 6-Methoxy-4(4-methylpiperazinyl)-N(1H-tetrazol-5-yl) quinaldamide, hydrochloride | Cl.COC=1C=C2C(=CC(C(=O)NC3=NN=NN3)=NC2=CC1)N1CCN(CC1)C | InChI=1S/C17H20N8O2.ClH/c1-24-5-7-25(8-6-24)15-10-14(16(26)19-17-20-22-23-21-17)18-13-4-3-11(27-2)9-12(13)15;/h3-4,9-10H,5-8H2,1-2H3,(H2,19,20,21,22,23,26);1H
